US04701565
Subsequently, 50 ml of acetonitrile, 0.092 mol of β-phenoxyethyl-p-tosylate, and 0.1 mol of p-ethylphenol were placed in a flask equipped with a stirrer. A 48 wt% aqueous solution of caustic soda (0.12 mol equivalent) was added dropwise at an inner temperature of not more than 75° C. while stirring. The mixture was stirred while refluxing for 2 hours. The reaction mixture was allowed to cool. On pouring the reaction mixture at about 40° C. into a methanol-water mixture, crystals precipitated. These crystals were separated by filtration, and then dried to yield 1-phenoxy-2-p-ethylphenoxyethane (m.p., 107°-108° C.). The yield was 98%.

reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
reactant | p-ethylphenol | 0.1 mol | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | caustic soda | 0.12 mol | [OH-].[Na+]
solvent | methanol water | CO.O
product | 1-phenoxy-2-p-ethylphenoxyethane | yield was 98% | O(C1=CC=CC=C1)CCOC1=CC=C(C=C1)CC | C16H18O2
